US07402680B2
6-Benzyl-2-isopropyl-3-thiophen-3-yl-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-c]pyridine
The title compound (69 mg) was prepared according to Example 287 using 300 mg of trifluoro-methanesulfonic acid 6-benzyl-2-isopropyl-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-c]pyridin-3-yl ester and 133 mg of 3-thiopheneboronic acid. MS (ESI): exact mass calculated for C20H23N3S, 337.16; found, m/z 338.5 [M+H]+. 1H NMR (500 MHz, CD3OD): 7.66-7.65 (m, 1H), 7.60-7.57(m, 3H), 7.55-7.53 (m, 3H), 7.21-7.20 (m, 1H), 4.65-4.52 (m, 3H), 4.42-4.33 (m, 2H), 3.82-3.79 (m, 1H), 3.44-3.40 (m, 1H), 2.94-2.91 (m, 2H), 1.46-1.35 (m, 6H).

reactant | trifluoro-methanesulfonic acid 6-benzyl-2-isopropyl-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-c]pyridin-3-yl ester | 300 mg | C(C1=CC=CC=C1)N1CC=2C(CC1)=C(N(N2)C(C)C)OS(=O)(=O)C(F)(F)F | C17H20F3N3O3S
reactant | 3-thiopheneboronic acid | 133 mg | S1C=C(C=C1)B(O)O | C4H5BO2S
product | 6-Benzyl-2-isopropyl-3-thiophen-3-yl-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-c]pyridine | 69 mg | C(C1=CC=CC=C1)N1CC=2C(CC1)=C(N(N2)C(C)C)C2=CSC=C2 | C20H23N3S
